US04886817
To a mixture of 150 g of N-(2-chloroethyl)-N'-(3-pyridyl) urea dissolved in 500 ml of tetrhydrofuran and 500 ml of dimethylformamide, 31.6 g of sodium hydride (60% oily suspension) was added under ice-cooling over 20 minutes. After stirring under ice-cooling for 10 minutes and at room temperature for 2 hours, 10 ml of acetic acid was added and the solvent was distilled off. Saturated saline water and chloroform were added to thr residue and insolubles were separated by filtration. The chloroform layer was washed with sodium hydrogen carbonate solution, dried and the solvent was distilled off. The residue was recrystallized from a mixture of chloroform and hexane to give 108.5 g of 1-(3-pyridyl)-2-imidazolidinone.

reactant | N-(2-chloroethyl)-N'-(3-pyridyl) urea | 150 g | ClCCNC(=O)NC=1C=NC=CC1 | C8H10ClN3O
reactant | sodium hydride | 31.6 g | [H-].[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 1-(3-pyridyl)-2-imidazolidinone | 108.5 g | N1=CC(=CC=C1)N1C(NCC1)=O | C8H9N3O
